US06136823
Synthesis of 7-(N-2-aminoethyl-N-methylamino)-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
N-Methylenediamine (17 mg) and triethylamine (35 mg) were added to acetonitrile (5 ml), to which 1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg) was added with heating and stirring at 60° C. The resultant mixture was heated under reflux for 2 hours as it was. After the reaction mixture was allowed to cool, solids deposited were collected by filtration and washed with ethanol and diethyl ether to obtain the title compound (40 mg) as a pale brown powder.

reactant | triethylamine | 35 mg | C(C)N(CC)CC | C6H15N
reactant | 1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C16H7ClF4N2O3
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-(N-2-aminoethyl-N-methylamino)-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 40 mg | NCCN(C)C1=C(C=C2C(C(=CN(C2=C1Cl)C1=C(C=C(C(=C1)N)F)F)C(=O)O)=O)F | C19H16ClF3N4O3
